datasets/RMG-dataset.csv
rxn,Ea
[C:0]([S:1])([H:2])([H:3])[H:4].[O:5][O:6]>>[C:0]([S:1][O:5][O:6])([H:2])([H:3])[H:4],24.69
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:19](=[C:20]([H:22])[H:23])[H:21],13.3888
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([C:14](=[S:15])[H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:16])([H:17])[H:18])([C:14](=[S:15])[H:20])[H:19],57.3208
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])=[C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20])[H:11])([H:9])[H:10],95.7718
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([C:7]([H:18])([H:19])[H:20])[C:6]1([H:16])[H:17])[H:10])([H:8])[H:9],94.391
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])=[C:7]([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])[C:7]1([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:10],141.712
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:14])([H:4])[H:5].[C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])([H:15])[H:16],72.3832
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([S:12][H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([S:12][H:17])[H:16],60.2496
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:18]([C:17]([H:20])([H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])([H:9])[H:10],30.7106
[C:0](#[C:1][H:3])[H:2].[N:4]([H:5])[H:6]>>[C:0](=[C:1][H:3])([H:2])[N:4]([H:5])[H:6],31.08712
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16])[H:7],10.7947
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]([H:17])=[C:7]2[C:8]([H:18])=[C:9]1[H:19].[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:14])[C:4]([H:15])([H:20])[C:5]([H:16])[C:6]([H:17])=[C:7]2[C:8]([H:18])=[C:9]1[H:19],5.8576
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[S:10]([S:11][H:13])[H:12]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:12])([H:5])([H:6])[H:7].[S:10][S:11][H:13],41.84
[N:0][H:1].[N:2]=[N:3][H:4]>>[N:0]([H:1])[H:4].[N:2]#[N:3],0.0
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[O:21][O:22][H:23]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][O:21][O:22][H:23],47.2792
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11])[H:5])[H:4],7.5312
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8],0.0
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:14],89.956
[H:4].[N:0]#[C:1][O:2][H:3]>>[H:3][H:4].[N:0]#[C:1][O:2],27.668792
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18])[H:16])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]([H:17])([H:18])[C:7]([H:19])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],123.135
